US05342833
A mixture of 240.2 g (647 mmol) (ethyl)triphenylphosphonium bromide, 72.5 g (647 mmol) potassium t-butoxide, and toluene (1 L) was stirred at room temperature for 1 hr. Then, 185 g (430 mmol) (3β)-3-[[(1,1,2-trimethylpropyl)dimethylsilyl]-oxy]androsta-5,7-dien-17-one was added with the aid of 50 mL of toluene. The temperature was kept below 25° C. by water cooling. After stirring at room temperature overnight, the reaction was quenched with 24.5 mL (430 mmol) of acetic acid. After stirring for 1 hr, the solid was removed by filtration and washed with 600 mL of toluene. The combined filtrate and washes were concentrated. Then 200 mL of methanol was added and the mixture was concentrated again. The residue was dissolved in a mixture of 650 mL methanol. 65 mL water and 650 mL hexane. The methanol/water layer was back-extracted with 325 mL of hexane. The combined hexane layers were concentrated. Then, 200 mL of methanol was added and the mixture was concentrated again. The resulting solid was suspended in 800 mL of methanol containing 8 mL of triethylamine, and the suspension was refluxed for 30 minutes. After cooling in a refrigerator overnight, the precipitate was filtered, washed with 300 mL of cold methanol, and dried by suction for 4 hr. Further drying at 50° C. under high vacuum afforded, 178.1 g (93.7% yield) of (3β,17Z)-(1,1,2-trimethylpropyl)(pregna-5,7,17(20)-trien-3-yloxy)dimethylsilane as a yellow solid: mp 94°-97° C. [α]D -62.8° (c 0.94, ethanol); Anal. Calcd for C29H48OSi: C, 79.02; H, 10.98; Si, 6.37. Found C, 78.74; H, 11.23; Si, 6.50.

reactant | potassium t-butoxide | 647 mmol, 72.5 g | CC(C)([O-])C.[K+]
reactant | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
reactant | (3β)-3-[[(1,1,2-trimethylpropyl)dimethylsilyl]-oxy]androsta-5,7-dien-17-one | 430 mmol, 185 g | CC(C(C)C)(C)[Si](O[C@@H]1CC2=CC=C3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)(C)C | C27H44O2Si
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | acetic acid | 430 mmol, 24.5 mL | C(C)(=O)O | C2H4O2
catalyst | (ethyl)triphenylphosphonium bromide | 647 mmol, 240.2 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | O | H2O
product | (3β,17Z)-(1,1,2-trimethylpropyl)(pregna-5,7,17(20)-trien-3-yloxy)dimethylsilane | 178.1 g, 93.7% yield | CC(C(C)C)(C)[Si](C)(C)O[C@@H]1CC2=CC=C3[C@@H]4CC/C(=C/C)/[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C29H48OSi
